US09375000B2
1-[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methanamine (0.6 g) and triethylamine (0.2 g) were added to dichloromethane (20 ml), and a dichloromethane solution (10 ml) of propionic anhydride (0.2 g) was added dropwise thereto under ice cooling. Upon the completion of the dropwise addition, the reaction mixture was stirred for 1 hour at room temperature, and the solvent was distilled off under reduced pressure. After purification by silica gel column chromatography, N-{[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methyl}propanamide (0.6 g) was obtained.

reactant | 1-[6-{3-[3,5-Bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methanamine | 0.6 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C(=N1)C(F)(F)F)CN)C(F)(F)F)(F)F | C20H15F12N3
reactant | triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | propionic anhydride | 0.2 g | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | N-{[6-{3-[3,5-bis(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)pyridin-3-yl]methyl}propanamide | 0.6 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=CC=C(C(=N1)C(F)(F)F)CNC(CC)=O)C(F)(F)F)(F)F | C23H19F12N3O
